US05114925
Ethyl (2S)-2-[[(2R,3S)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-2-hydroxy-1-butyl]thio]-4-methylpentanoate
A solution of 2.85 g (10.6 mmole) of (2R,3S) 3-(t-butoxycarbonylamino)-4-cyclohexyl-1,2-epoxybutane, 1.86 g (10.6 mmole) of ethyl (S)-2-mercapto-4-methylpentanoate, and 1.48 ml (1.07 g. 10.6 mmole) of triethylamine in 40 ml of absolute ethanol was stirred overnight at room temperature under N2. The solution was concentrated in vacuo. The residue was taken up in CH2Cl2 and washed with 0.2N HCl followed by saturated aqueous NaCl solution. The organic phase was dried over MgSO4, filtered, and rotary evaporated. The residual oil was chromatographed on a column of silica gel (57×4.3 cm) packed in hexane (elution with 7:1 and then 4:1 hexane ethyl acetate). Concentration of clean product fractions yielded 4.02 g (85%) of an oil, [α]20D -63.9°, TLC in 4:1 hexane-ethyl acetate. Mass spectrum and 200 MHz NMR confirmed the structure.

reactant | (2R,3S) 3-(t-butoxycarbonylamino)-4-cyclohexyl-1,2-epoxybutane | 10.6 mmole, 2.85 g | C(C)(C)(C)OC(=O)N[C@H]([C@@H]1CO1)CC1CCCCC1 | C15H27NO3
reactant | ethyl (S)-2-mercapto-4-methylpentanoate | 10.6 mmole, 1.86 g | S[C@H](C(=O)OCC)CC(C)C | C8H16O2S
reactant | triethylamine | 10.6 mmole, 1.48 ml, 1.07 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Ethyl (2S)-2-[[(2R,3S)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-2-hydroxy-1-butyl]thio]-4-methylpentanoate | 4.02 g, 85% | C(C)(C)(C)OC(=O)N[C@H]([C@H](CS[C@H](C(=O)OCC)CC(C)C)O)CC1CCCCC1 | C23H43NO5S
